US05447949
(vi) methyl (E)-3-[2-n-butyl-1-{(5-carbomethoxy-2-pyridyl)methyl}-1H-imidazol-5-yl]-(2-thienyl)methyl-2-propenoate
A mixture of methyl 3-acetoxy-3-[2-n-butyl-1-{(5-carbomethoxy-2-thienyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methylpropanoate (1.99 g, 3.88 mmol) in dry toluene (150 ml) was treated with 17 ml of 1,8-diazabicyclo-[ 5.4.0]undec-7-ene (DBU) and the resulting solution was heated at 80° C. under argon for 1 hour. The solvent was evaporated, the residue triturated with diethyl ether and activated charcoal was added. After filtration, the filtrate was concentrated to give 6.29 g of an oil that was chromatographed over silica gel with hexane/ethyl acetate (1:1) to give 0.43 g (24%) of methyl (E)-3-[2-n-butyl-1-{(5-carbomethoxy-2-thienyl)methyl)-1H-imidazol-5-yl-2-(2-thienyl)methyl-2-propenoate.

reactant | methyl 3-acetoxy-3-[2-n-butyl-1-{(5-carbomethoxy-2-thienyl)methyl}-1H-imidazol-5-yl]-2-(2-thienyl)methylpropanoate | 3.88 mmol, 1.99 g | C(C)(=O)OC(C(C(=O)OC)CC=1SC=CC1)C1=CN=C(N1CC=1SC(=CC1)C(=O)OC)CCCC | C25H30N2O6S2
reactant | 1,8-diazabicyclo-[ 5.4.0]undec-7-ene | 17 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (E)-3-[2-n-butyl-1-{(5-carbomethoxy-2-pyridyl)methyl}-1H-imidazol-5-yl]-(2-thienyl)methyl-2-propenoate | 6.29 g | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC=1SC=CC1)CC1=NC=C(C=C1)C(=O)OC | C24H27N3O4S
